US04404402
Preparation of 2,4-dibromo-6-[(difluoromethyl)sulfonyl]aniline.
A solution of 2-amino-3,5-dibromobenzenesulfinic acid (7.98 g; 0.025 mol) in a mixture of isopropyl alcohol (100 ml) and sodium hydroxide (8.0 g of 50% aqueous) and water (2 ml) is warmed to 40° C. Chlorodifluoromethane is added slowly through a gas inlet tube over a period of 3 hours. The reaction mixture exotherms to 55° C. The reaction mixture is poured into water (500 ml) and the solution is extracted with methylene chloride (2×100 ml). The combined extracts are washed with saturated NaHCO3 (100 ml), saturated NaCl (100 ml), then dried over MgSO4. The solvent is evaporated under vacuum yield 0.9 g of the title product, m.p. 84°-88° C.

reactant | 2-amino-3,5-dibromobenzenesulfinic acid | 0.025 mol, 7.98 g | NC1=C(C=C(C=C1Br)Br)S(=O)O | C6H5Br2NO2S
reactant | water | 2 ml | O | H2O
reactant | Chlorodifluoromethane | ClC(F)F | CHClF2
reactant | water | 500 ml | O | H2O
solvent | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
solvent | sodium hydroxide | 8.0 g | [OH-].[Na+]
product | 2,4-dibromo-6-[(difluoromethyl)sulfonyl]aniline | BrC1=C(N)C(=CC(=C1)Br)S(=O)(=O)C(F)F | C7H5Br2F2NO2S
